US07214681B2
LDA (38.9 mL of a 1.8M solution in n-C7H16-THF-PhEt, 70.0 mmol) was added to a solution of DMPU (59.3 mL, 490.3 mmol) in anhydrous THF (150 mL) at −78° C. The mixture was stirred for 30 min, before being treated dropwise with a solution of ethyl (4-methanesulfonylphenyl)acetate (Preparation 15, 16.97 g, 70.0 mmol) in anhydrous THF (50 mL). Stirring was continued at −78° C. for 45 min, then a solution of 4-iodomethyltetrahydropyran (19.00 g, 84.0 mmol) in anhydrous THF (40 mL) was added. The mixture was allowed to warm to 20° C. over 16 h, before being quenched with 1M HCl (70 mL). The THF was removed under reduced pressure, then more H2O (40 mL) was added and the remainder extracted with EtOAc (2×250 mL). The EtOAc extracts were dried (MgSO4). Filtration, solvent evaporation, and flash chromatography (IH-EtOAc, 9:1 to 1:1) furnished ethyl 2-(4-methanesulfonylphenyl)-3-(tetrahydropyran-4-yl)propionate: m/z (ES+)=698.3 [2M+NH4]+. A solution of this compound (20.27 g, 59.6 mmol) in MeOH (100 mL) and 2M NaOH (62.5 mL, 125.0 mmol) was heated under reflux for 1 h. The solvents were removed under reduced pressure, then the remaining solid was triturated with Et2O (5×100 mL), before being dissolved in H2O (100 mL). The aqueous solution was washed with EtOAc (50 mL), acidified with 2M HCl to pH 1, and extracted with EtOAc (2×1 L). After drying (MgSO4), filtration and solvent evaporation gave the title compound: m/z (ES+)=642.3 [2M+NH4]+.

reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | DMPU | 490.3 mmol, 59.3 mL | CN1CCCN(C1=O)C | C6H12N2O
reactant | ethyl (4-methanesulfonylphenyl)acetate | 70.0 mmol, 16.97 g | CS(=O)(=O)C1=CC=C(C=C1)CC(=O)OCC | C11H14O4S
reactant | 4-iodomethyltetrahydropyran | 84.0 mmol, 19.00 g | ICC1CCOCC1 | C6H11IO
solvent | n-C7H16 THF PhEt | CCCCCCC.C1CCOC1.C1(=CC=CC=C1)CC
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | ethyl 2-(4-methanesulfonylphenyl)-3-(tetrahydropyran-4-yl)propionate | CS(=O)(=O)C1=CC=C(C=C1)C(C(=O)OCC)CC1CCOCC1 | C17H24O5S
